US06248739B1
A solution of LiAlH4 (34 mL, 1M in THF) is added dropwise via addition funnel to a cold (0° C.) solution of (2H)1,4-benzoxazin-3(4H)-one (5.04 g) in freshly distilled THF (110 mL). The LiAlH4 is added at such a rate to keep the reaction temperature below 10° C. The mixture is stirred at room temperature for 2 h and then is quenched successively with water (5 mL), 15% NaOH (5 mL), and water (5 mL) again. The resulting precipitate is filtered and the filtrate is concentrated in vacuo. The residue is dissolved in CH2Cl2 and dried (Na2SO4), filtered, and concentrated to afford the product benzomorpholine as a yellow oil which was used without further purification in the next step.

reactant | LiAlH4 | 1M, 34 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (2H)1,4-benzoxazin-3(4H)-one | 5.04 g | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | benzomorpholine | O1CCNC2=C1C=CC=C2 | C8H9NO
